US07943622B2
Oxazolo[4,5-b]pyridine-2(3H)-thione
3-Hydroxy-2-aminopyridine (2.00 g, 18.2 mmol) and potassium hydroxide (1.22 g, 21.8 mmol) were dissolved in carbon disulfide (15 mL) and EtOH (25 mL), and the reaction mixture was heated to reflux overnight. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure. The resulting solid was suspended in 1 M aqueous HCl, collected by filtration, washed with water (2×) and air-dried. Further drying in a 35° C. vacuum oven gave 2.52 g (91%) of the title compound as a tan solid. LC-MS: RT=4.82 min., [M+H]+=153.1

reactant | 3-Hydroxy-2-aminopyridine | 18.2 mmol, 2.00 g | OC=1C(=NC=CC1)N | C5H6N2O
reactant | potassium hydroxide | 21.8 mmol, 1.22 g | [OH-].[K+]
reactant | carbon disulfide | 15 mL | C(=S)=S | CS2
solvent | EtOH | 25 mL | CCO | C2H6O
product | Oxazolo[4,5-b]pyridine-2(3H)-thione | 2.52 g, 91% | O1C(NC2=NC=CC=C21)=S | C6H4N2OS
